US05602252
Combine 29 g (0.12 mol) of 2,4-dichloro-5-nitro-6-(2-propyl)-pyrimidine with 42 g (0.62 mol) of imidazole in 500 mL of acetonitrile, and stir at room temperature for 24 h. Remove the solvent under vacuum, slurry the residue in 500 mL of CH2Cl2 and wash with 4×500 mL 10% K2CO3. Dry the organic portion over MgSO4, treat with charcoal, filter and concentrate the filtrate to dryness under vacuum to afford 2,4-bis(1H-imidazol-1-yl)-5-nitro-6-(2-propyl)pyrimidine.

reactant | 2,4-dichloro-5-nitro-6-(2-propyl)-pyrimidine | 0.12 mol, 29 g | ClC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])C(C)C | C7H7Cl2N3O2
reactant | imidazole | 0.62 mol, 42 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | 2,4-bis(1H-imidazol-1-yl)-5-nitro-6-(2-propyl)pyrimidine | N1(C=NC=C1)C1=NC(=C(C(=N1)N1C=NC=C1)[N+](=O)[O-])C(C)C | C13H13N7O2
